US07375227B2
1A. 1-(2-Chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea
To a solution of 4-amino-2-methylquinoline (12.6 g, 80 mmol) in THF (480 mL) is added 2-chloroethylisocyanate (10.2 mL, 120 mmol) at rt. The reaction mixture is stirred for 40 h at rt. MeOH (100 mL) is added, and stirring is continued an additional hour. The reaction mixture is evaporated and the residue is taken up in CH2Cl2. The organic layer is shaken with 1 N HCl (250 mL), and the resulting precipitate is collected by filtration. The solid is washed with CH2Cl2 (100 mL), saturated NaHCO3 (2×100 mL), and with water (4×100 mL). The resulting solid is dried under HV at rt for 14 h to provide the title compound.

reactant | 4-amino-2-methylquinoline | 80 mmol, 12.6 g | NC1=CC(=NC2=CC=CC=C12)C | C10H10N2
reactant | 2-chloroethylisocyanate | 120 mmol, 10.2 mL | ClCCN=C=O | C3H4ClNO
reactant | MeOH | 100 mL | CO | CH4O
solvent | THF | 480 mL | C1CCOC1 | C4H8O
product | 1-(2-Chloro-ethyl)-3-(2-methyl-quinolin-4-yl)-urea | ClCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C13H14ClN3O
